US09120761B2
3-(2-(2-((2-Methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzamide (5)
To a mixture of tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate (I34) 0.098 g, 0.20 mmol), 3-ethynylbenzamide (I31) (0.038 g, 0.26 mmol), PdCl2(PPh3)2 (9 mg, 0.01 mmol), triphenylphosphine (0.010 g, 0.04 mmol) and copper(I) iodide (0.009 g, 0.05 mmol) in DMF (2 mL), that had been degassed with nitrogen for 10 minutes, was added triethylamine (0.090 mL, 0.65 mmol). The mixture was degassed with nitrogen then heated to 120° C. for 25 minutes under microwave irradiation. On cooling to room temperature the resulting mixture was left overnight, then an additional portion of 3-ethynylbenzamide (I26) (0.047 g, 0.32 mmol) was added. After degassing with nitrogen the reaction was heated at 120° C. for 25 minutes under microwave irradiation. The volatiles were evaporated under reduced pressure and the residue purified using silica gel column chromatography (20-70% EtOAc/petroleum benzine 40-60° C.) to give the title compound (I35) (0.073 g, 61%) as a yellow solid; 1H NMR (400 MHz, CDCl3) δ 8.66 (s, 1H), 8.35 (d, J=8.3 Hz, 1H), 8.04 (dd, J=1.4, 1.4 Hz, 1H), 8.02 (s, 1H), 7.93 (ddd, J=7.9, 1.8, 1.2 Hz, 1H), 7.80 (m, 1H), 7.53 (m, 1H), 6.88 (dd, J=8.3, 1.6 Hz, 1H), 6.76 (d, J=1.8 Hz, 1H), 4.27 (m, 2H), 3.91 (s, 3H), 2.81 (m, J=12.2 Hz, 2H), 2.64 (tt, J=12.2, 3.4 Hz, 1H), 1.84 (m, 2H), 1.65 (m, 2H), 1.49 (s, 9H). LCMS Method C: rt 6.59 min; m/z 496.1 [(M-Boc)+H]+, 540.0 [(M-t-Bu)+H]+.

reactant | tert-butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate | 0.20 mmol, 0.098 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C22H26ClF3N4O3
reactant | 3-ethynylbenzamide | 0.26 mmol, 0.038 g | C(#C)C=1C=C(C(=O)N)C=CC1 | C9H7NO
reactant | triphenylphosphine | 0.04 mmol, 0.010 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.65 mmol, 0.090 mL | C(C)N(CC)CC | C6H15N
reactant | 3-ethynylbenzamide | 0.32 mmol, 0.047 g | C(#C)C=1C=C(C(=O)N)C=CC1 | C9H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.01 mmol, 9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.05 mmol, 0.009 g | [Cu]I
product | 3-(2-(2-((2-Methoxy-4-(piperidin-4-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)benzamide | 0.073 g, 61% | COC1=C(C=CC(=C1)C1CCNCC1)NC1=NC=C(C(=N1)CCC=1C=C(C(=O)N)C=CC1)C(F)(F)F | C26H28F3N5O2
